US04408053
5-Fluoro-3-(4-piperidyl)-1,2-benzisoxazole hydrochloride
A mixture of 17.5 g of 3-(1-acetyl-4-piperidyl)-5-fluoro-1,2-benzisoxazole and 110 ml of 6 N hydrochloric acid was stirred under reflux for 6 hrs. After standing at ambient temperature for ca 12 hrs, a solid was collected, washed with acetone and dried to yield 14.2 g (83%) of product as the hydrochloride salt, mp 297°-299°.

reactant | 3-(1-acetyl-4-piperidyl)-5-fluoro-1,2-benzisoxazole | 17.5 g | C(C)(=O)N1CCC(CC1)C1=NOC2=C1C=C(C=C2)F | C14H15FN2O2
reactant | hydrochloric acid | 6 N, 110 ml | Cl | ClH
product | 5-Fluoro-3-(4-piperidyl)-1,2-benzisoxazole hydrochloride | 14.2 g, 83% | Cl.FC=1C=CC2=C(C(=NO2)C2CCNCC2)C1 | InChI=1S/C12H13FN2O.ClH/c13-9-1-2-11-10(7-9)12(15-16-11)8-3-5-14-6-4-8;/h1-2,7-8,14H,3-6H2;1H
